US08877782B2
6-(5-Methyl-3-pyridin-3-yl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 89, 6-(5-methyl-3-pyridin-3-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (130 mg, 0.4 mmol), instead of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, using 4-aminotetrahydropyran instead of 2,2,2-trifluoroethylamine, was converted to the title compound (117 mg, 83%) which was obtained as an off white solid. MS: m/e=395.1 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-3-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.4 mmol, 130 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C=1C=NC=CC1)=O | C17H15N3O4
reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-(5-Methyl-3-pyridin-3-yl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 117 mg, 83% | CC1=C(C(=NO1)C=1C=NC=CC1)COC1=NC=C(C(=O)NC2CCOCC2)C=C1 | C21H22N4O4
